US08557992B2
To a solution of methyl 8-hydroxyquinoline-7-carboxylate in 20 mL of pyridine cooled to −5° C. was added trifluoromethanesulfonic anhydride (4.03 mL 23.9 mmol). The mixture was warmed to rt, and after 1 h, poured into 150 mL of ice water. After stirring for 30 min, a solid was collected via filtration, washed 3× with water, and dried to provide methyl 8-{[(trifluoromethyl)sulfonyl]oxy}quinoline-7-carboxylate that gave a proton NMR spectra consistent with theory.

reactant | methyl 8-hydroxyquinoline-7-carboxylate | OC=1C(=CC=C2C=CC=NC12)C(=O)OC | C11H9NO3
reactant | trifluoromethanesulfonic anhydride | 23.9 mmol, 4.03 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | methyl 8-{[(trifluoromethyl)sulfonyl]oxy}quinoline-7-carboxylate | FC(S(=O)(=O)OC=1C(=CC=C2C=CC=NC12)C(=O)OC)(F)F | C12H8F3NO5S
